US04885300
1-[1-(2,3-Epoxy)propyl]-4-[bis(4-fluorophenyl)methyl]piperazine
A solution of 4,4'-difluorobenzhydrylpiperazine (28.83 g, 100 mmol) in acetonitrile (250 mL) was added to an ice cold mixture of epibromohydrin (9.1 mL, 110 mmol) and anhydrous potassium carbonate (15.2 g, 110 mmol) in acetonitrile (150 mL) over a period of 40 min. The mixture was stirred at room temperature for 100 h, filtered and the solids were washed with methylene chloride. The combined filtrates were concentrated to dryness to give an oil which was eluted through a flash chromatographic silica gel column using 2-3% methanol/methylene chloride to give the title compound as glass, 23.98 (69.6%); 300 MHz 1H NMR (CDCl3) δ: 7.4-6.9 (m, 8H). 4.22 (s. 1H), 3.09 (br m, 1H), 2.8-2.25 (m, 12H); MS 345 (MH+).

reactant | 4,4'-difluorobenzhydrylpiperazine | 100 mmol, 28.83 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCNCC2)C=C1 | C17H18F2N2
reactant | epibromohydrin | 110 mmol, 9.1 mL | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-[1-(2,3-Epoxy)propyl]-4-[bis(4-fluorophenyl)methyl]piperazine | O1C(CN2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C1 | C20H22F2N2O
